US07795282B2
Step A: Preparation of 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide:
2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole (577 mg, 1.61 mmol) was dissolved in 8 mL THF, followed by addition of thio-carbonyldiimidazole (458 mg, 2.57 mmol), and heated to reflux for 1 hour. The reaction mixture was cooled to 23° C., and hydrazine (257 mg, 8.03 mmol) was added. The reaction mixture was stirred for 12 hours. The crude reaction mixture was then concentrated and purified by flash column chromatography, eluting with 4:1 (hexanes/ethyl acetate), to afford the desired product (135 mg, 20%).

reactant | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole | 1.61 mmol, 577 mg | N(=[N+]=[N-])CCCC1(SC(=NN1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C17H15F2N5S
reactant | thio-carbonyldiimidazole | 2.57 mmol, 458 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | hydrazine | 8.03 mmol, 257 mg | NN | H4N2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide | 135 mg, 20% | N(=[N+]=[N-])CCCC1(SC(=NN1C(NN)=S)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C18H17F2N7S2
